US08895566B2
2-Propanamine (1.71 mL, 20.0 mmol) was added to a mixture of 2-(4-chlorophenyl)oxirane (2.69 g, 16.7 mmol) and water (6.67 mL). The mixture was stirred at room temperature. After 24 hours, additional 2-propanamine (1.13 mL, 13.3 mmol) was added. After a total of 40 hours, water (15 mL) was added. The contents were extracted with ether (4×50 mL). The combined ether solutions were dried (Na2SO4). After filtration and evaporation of solvents, the material was dissolved in methylene chloride (100 mL). Di-tert-butyldicarbonate (4.01 g, 18.4 mmol) was added, followed by triethylamine (2.56 mL, 18.4 mmol). The mixture was stirred at room temperature for 20 hours. More Boc2O (2 g) was added. After 4 hours, imidazole (1.136 g, 16.68 mmol) was added. After 20 minutes, the contents were diluted with DCM (50 mL), washed with 1.0M NaH2PO4 (2×50 mL), and dried (Na2SO4). The crude was purified by flash chromatography to give tert-butyl 2-(4-chlorophenyl)-2-hydroxyethyl(isopropyl)carbamate (3.32 g, 63%).

reactant | 2-Propanamine | 20.0 mmol, 1.71 mL | CC(C)N | C3H9N
reactant | 2-(4-chlorophenyl)oxirane | 16.7 mmol, 2.69 g | ClC1=CC=C(C=C1)C1OC1 | C8H7ClO
reactant | 2-propanamine | 13.3 mmol, 1.13 mL | CC(C)N | C3H9N
reactant | Di-tert-butyldicarbonate | 18.4 mmol, 4.01 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 18.4 mmol, 2.56 mL | C(C)N(CC)CC | C6H15N
reactant | Boc2O | 2 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | imidazole | 16.68 mmol, 1.136 g | N1C=NC=C1 | C3H4N2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | 15 mL | O | H2O
solvent | water | 6.67 mL | O | H2O
product | tert-butyl 2-(4-chlorophenyl)-2-hydroxyethyl(isopropyl)carbamate | 3.32 g, 63% | ClC1=CC=C(C=C1)C(CN(C(OC(C)(C)C)=O)C(C)C)O | C16H24ClNO3
